US07776869B2
In a vial, (R)-2-(3-(tert-butyldimethylsilyloxy)piperidin-1-yl)-5-(trifluoromethyl)benzenamine (0.517 g, 1.4 mmol) was taken up in THF. Triethylamine (0.29 ml, 2.1 mmol) and 2-fluoro-5-iodobenzoyl chloride (0.43 g, 1.5 mmol) were added. The vial was sealed and the reaction stirred for 48 h. The reaction mixture was poured into EtOAc/1N NaOH. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The crude material was treated with hexanes and passed through a Redi-Sep® pre-packed silica gel column (40 g) eluting with 0-10% EtOAc/hexane. The product-containing fractions were concentrated to afford (R)-N-(2-(3-(tert-butyldimethylsilyloxy)piperidin-1-yl)-5-(trifluoromethyl)phenyl)-2-fluoro-5-iodobenzamide as a white foam.

reactant | (R)-2-(3-(tert-butyldimethylsilyloxy)piperidin-1-yl)-5-(trifluoromethyl)benzenamine | 1.4 mmol, 0.517 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(CCC1)C1=C(C=C(C=C1)C(F)(F)F)N | C18H29F3N2OSi
reactant | Triethylamine | 2.1 mmol, 0.29 ml | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-5-iodobenzoyl chloride | 1.5 mmol, 0.43 g | FC1=C(C(=O)Cl)C=C(C=C1)I | C7H3ClFIO
reactant | EtOAc | 1N | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | (R)-N-(2-(3-(tert-butyldimethylsilyloxy)piperidin-1-yl)-5-(trifluoromethyl)phenyl)-2-fluoro-5-iodobenzamide | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(CCC1)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=C(C=CC(=C1)I)F)=O | C25H31F4IN2O2Si
